US04294960
7-{2-(2-Formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-cephem-4-carboxylic acid (syn isomer, 95 mg.) was suspended in methanol (4 ml.). To the suspension was added conc. hydrochloric acid (110 mg.) and the solution was stirred at room temperature for 4 hours. After distilling methanol under reduced pressure, the residue was dissolved in water (30 ml.) and the aqueous solution was washed with ethyl acetate (10 ml.) and dichloromethane (15 ml.) in turn. Nitrogen gas was introduced into the aqueous solution to exclude the remaining organic solvent, and the aqueous solution was lyophilized to give 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido)-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 83 mg.), m.p. 180° to 190° C. (dec.)

reactant | 7-{2-(2-Formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-cephem-4-carboxylic acid | 95 mg | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C14H13N5O6S2
reactant | hydrochloric acid | 110 mg | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido)-3-cephem-4-carboxylic acid hydrochloride | 83 mg | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | InChI=1S/C13H13N5O5S2.ClH/c1-23-17-7(5-4-25-13(14)15-5)9(19)16-8-10(20)18-6(12(21)22)2-3-24-11(8)18;/h2,4,8,11H,3H2,1H3,(H2,14,15)(H,16,19)(H,21,22);1H/t8?,11-;/m1./s1
